US08980913B2
Step 1: tert-Butyl (3,3-diethoxypropyl)carbamate
A solution of di-tert-butyl dicarbonate (6.74 g, 31.0 mmol) in DCM (50 mL) was added to a solution of 1-amino-3,3-diethoxypropane (5.0 g, 34.0 mmol) in DCM (50 mL). The reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was washed with 10% aqueous potassium hydrogen sulfate and the organic phase dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure to afford the title product (8.13 g, 100%).

reactant | di-tert-butyl dicarbonate | 31.0 mmol, 6.74 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-amino-3,3-diethoxypropane | 34.0 mmol, 5.0 g | NCCC(OCC)OCC | C7H17NO2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (3,3-diethoxypropyl)carbamate | 8.13 g, 100% | C(C)OC(CCNC(OC(C)(C)C)=O)OCC | C12H25NO4
